** Sheet_1 **
V1 +5V GND 5
R1 R1_1 +5V 200
R2 R2_1 +5V 10K
R3 R3_1 +5V 10K
R4 R4_1 +5V 200
C1 C1_1 R2_1 100U
C2 C2_1 R3_1 100U
Q1 C1_1 R3_1 GND 2N2222
Q2 C2_1 R2_1 GND 2N2222
XLA1 C1_1 XLA1_I2 C2_1 XLA1_I4 XLA1_I5 XLA1_I6 XLA1_I7 XLA1_I8 XLA1_I9 XLA1_I10 LOGICANALYZER  
XLED1 R1_1 C1_1 LED
.Save V(R1_1) V(C1_1) 
  
XLED2 R4_1 C2_1 LED
.Save V(R4_1) V(C2_1) 
  



.Save V(C1_1) V(XLA1_I2) V(C2_1) V(XLA1_I4) V(XLA1_I5) V(XLA1_I6) V(XLA1_I7) V(XLA1_I8) V(XLA1_I9) V(XLA1_I10) 
  
.tran 10
.inc EDA/LED.sub
.inc standard.bjt
.inc EDA/LOGICANALYZER.sub